US07507736B2
4-[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-sulfonic acid dimethylamide
The title compound was prepared in analogy to example 51, from [1-isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and dimethylsulfamoyl chloride. Light-yellow foam. MS (m/z): 520.2 (M+H)+.

reactant | [1-isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.C(C)(C)N1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1
reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
product | 4-[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C)C(C)C)C | C26H41N5O4S
